US07678787B2
Step A. 2-Chloro-5-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)benzenesulfonamide
A solution containing 1.02 g (0.004 mol) of 4-chloro-3-sulfamoylbenzoyl chloride, 0.74 g (0.004 mol) of 10,11-dihydro-5H-pyrolo[2,1-c][1,4]benzodiazepine and 0.48 g (0.004 mol) of N,N-dimethylaniline in 50 ml of 1,4-dioxane was allowed to stand at room temperature for 2 hours. The reaction mixture was then poured into 500 mL of water with stirring. The precipitate was collected, washed and dried to provide the title compound (0.7 g), m.p. 137° C. dec.

reactant | 4-chloro-3-sulfamoylbenzoyl chloride | 0.004 mol, 1.02 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | 10,11-dihydro-5H-pyrolo[2,1-c][1,4]benzodiazepine | 0.004 mol, 0.74 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | N,N-dimethylaniline | 0.004 mol, 0.48 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | water | 500 mL | O | H2O
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro-5-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)benzenesulfonamide | 0.7 g | ClC1=C(C=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)S(=O)(=O)N | C19H16ClN3O3S
